* c:\fossee\instru_low_high\instru_low_high.cir

.include lm_741.sub
x1 ? net-_r1-pad2_ in1 net-_x1-pad4_ ? net-_r1-pad1_ net-_x1-pad7_ ? lm_741
x2 ? net-_r2-pad2_ in2 net-_x1-pad4_ ? net-_r3-pad2_ net-_x1-pad7_ ? lm_741
x3 ? net-_r5-pad2_ net-_r4-pad2_ net-_x1-pad4_ ? out_instumentation_ net-_x1-pad7_ ? lm_741
r1  net-_r1-pad1_ net-_r1-pad2_ 10k
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 10k
r5  net-_r1-pad1_ net-_r5-pad2_ 10k
r4  net-_r3-pad2_ net-_r4-pad2_ 10k
r6  net-_r4-pad2_ gnd 10k
r7  net-_r5-pad2_ out_instumentation_ 10k
v3  net-_x4-pad7_ gnd 15
v4  gnd net-_x4-pad4_ 15
v2  in2 gnd sine(0 1m 100 0 20)
v1  in1 gnd sine(0 2m 50 0 25)
* u1  in1 plot_v1
* u2  in2 plot_v1
x4 ? out_instumentation_ gnd net-_x4-pad4_ ? net-_c1-pad1_ net-_x4-pad7_ ? lm_741
x5 ? net-_r11-pad1_ gnd net-_x4-pad4_ ? out net-_x4-pad7_ ? lm_741
r8  out_instumentation_ gnd 10k
r10  out_instumentation_ net-_c1-pad1_ 100k
* u3  out plot_v1
v5  net-_x1-pad7_ gnd 15
v6  gnd net-_x1-pad4_ 15
c1  net-_c1-pad1_ out_instumentation_ 100n
c2  net-_c2-pad1_ net-_c1-pad1_ 100n
r9  net-_c2-pad1_ net-_r11-pad1_ 10k
r11  net-_r11-pad1_ out 15k
* u4  out_instumentation_ plot_v1
.tran 10e-06 120e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out)
plot v(out_instumentation_)
.endc
.end
